2124-03-01 08:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2124-3-1**] 02:30 AM
   right IJ
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-1**] 05:13 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-1**] 05:13 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-1**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 77 (70 - 91) bpm
   BP: 100/57(68) {96/50(64) - 118/62(75)} mmHg
   RR: 15 (5 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 1 (1 - 1)mmHg
   Total In:
                                                                  6,454 mL
   PO:
   TF:
   IVF:
                                                                  1,454 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  4,025 mL
   Urine:
                                                                  1,925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,429 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   9.4 g/dL
   95 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   6 mg/dL
   109 mEq/L
   137 mEq/L
   25.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2124-3-1**]  01:30 AM
                             [**2124-3-1**]  03:00 AM
   WBC
   7.0
   Hct
   26.1
   25.7
   Plt
   215
   Cr
   0.8
   TropT
   <0.01
   Glucose
   95
   Other labs: PT / PTT / INR:17.0/94.1/1.5, CK / CKMB /
   Troponin-T:217/3/<0.01, Differential-Neuts:79.7 %, Lymph:17.2 %,
   Mono:2.7 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, LDH:139 IU/L, Ca++:7.4
   mg/dL, Mg++:1.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-1**] 02:30 AM
   18 Gauge - [**2124-3-1**] 02:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-03-02 03:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2124-3-1**] 02:30 AM
   right IJ
   events:
   - received an additional 4L of NS (for total of 10L since admission).
   - CVP up to 8 and levophed off at 3pm.
   - Viral screen negative.
   - Ruled out for MI.
   - Pt did not stim appropriately so started stress dose steroids for
   24-36 hours.
   - TTE within normal limits with good systolic function.
   medication changes:
   - started synthroid 75mcg PO daily
   - started on vanco/zosyn [**2124-3-1**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-1**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-2**] 03:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 73 (70 - 96) bpm
   BP: 106/50(64) {89/39(50) - 113/78(83)} mmHg
   RR: 16 (5 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (1 - 9)mmHg
   Mixed Venous O2% Sat: 78 - 78
                                Total In:
                                                                 11,331 mL
                                                                    185 mL
   PO:
                                                                    240 mL
                                TF:
   IVF:
                                                                  5,847 mL
                                                                    185 mL
   Blood products:
                                                                    244 mL
   Total out:
                                                                  8,775 mL
                                                                    640 mL
   Urine:
                                                                  6,675 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,556 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   10.1 g/dL
   129 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   5 mg/dL
   111 mEq/L
   141 mEq/L
   27.4 %
   5.2 K/uL
        [image002.jpg]
                             [**2124-3-1**]  01:30 AM
                             [**2124-3-1**]  03:00 AM
                             [**2124-3-1**]  01:52 PM
   WBC
   7.0
   5.2
   Hct
   26.1
   25.7
   27.4
   Plt
   215
   187
   Cr
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   95
   129
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:254/3/<0.01, Differential-Neuts:79.7 %, Lymph:17.2 %,
   Mono:2.7 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, LDH:139 IU/L, Ca++:7.8
   mg/dL, Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   65 yom with hx of HTN, Hyperthyroidism who presents with complaint of
   nausea and vomiting x 3 days, also with abdominal pain who became
   hypotensive and febrile in the ED admitted to the ICU for hypotension.
   # Sepsis:  Mr. [**Known lastname 4308**] presented with leukocytosis, fevers, abdominal
   pain, nausea, vomiting and hypotension which together are all
   concerning for sepsis.  He was initially on levophed for hypotension
   which has now been weaned off.  No source of infection at this time.
   Plan is to continue with Vanco/Zosyn for broad coverage until cultures
   remain negative for 48-72 hours.
   -- cont Vanco/Zosyn
   -- f/u blood cultures
   -- f/u urine culture
   -- IVF boluses PRN
   # Adrenal Insufficiency:  patient had initial cortisol level of 5 in
   the setting of infection which increased to only 11 with stimulation
   which raised the concern for adrenal insufficiency.  He was given
   stress dose steroids yesterday and was weaned off of levophed with good
   response.  He was given his last dose at 8am this morning.  We will
   stop steroids at this time and monitor his BP.  If BP remains stable
   then he will be called out to the medical floor.
   -- stop steroids
   -- monitor for hypotension
   # Anemia:  Patient with acute HCT drop in setting of IVF
   resuscitation.  Likely dilutional in the setting IVF resuscitation.
   Anemia also microcytic which raises the concern for occult bleeding.
   HCT stable since yesterday.
   - follow HCT daily
   - send Ferritin/Iron/TIBC, folate, B12
   - if Iron deficiency will need outpatient colonoscopy
   # ST depressions: Initial ECG with < 1mm ST segment depressions on ECG
   which subsequently resolved.  He has ROMI.
   -- likely needs stress as outpatient
   # Hypothyroidism: restarted synthroid
   # FEN: ADAT
   # Access: PIV, RIJ CVL
   # PPx: heparin SC, H2 blocker
   # Code: FULL
   # Dispo: Medical floor
   # Comm:  With patient

2124-03-02 10:58:00 Physician Attending Progress Note
Chief Complaint:  Hypotension ? sepsis related
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2124-3-1**] 12:30 PM
 URINE CULTURE - At [**2124-3-1**] 01:10 PM
   Fluid resuscitated with 10L NS and i unit blood
   CVP improved to 8
   Levofed off at 3 pm
   Viral screen neg
   Card enzymes neg
   [**Last Name (un) 567**] stim 5.5 - 11: started stress dose steroids
   TTE wnl
   Hct stable
   appears depressed
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-2**] 05:46 AM
   Vancomycin - [**2124-3-2**] 07:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-2**] 07:46 AM
   Pantoprazole (Protonix) - [**2124-3-2**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, Occassional heartburn
   Flowsheet Data as of  [**2124-3-2**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.9
C (96.6
   HR: 76 (70 - 96) bpm
   BP: 110/62(73) {89/39(50) - 111/78(83)} mmHg
   RR: 16 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (5 - 10)mmHg
   Total In:
                                                                 11,331 mL
                                                                  1,853 mL
   PO:
                                                                    240 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  5,847 mL
                                                                  1,553 mL
   Blood products:
                                                                    244 mL
   Total out:
                                                                  8,775 mL
                                                                  1,860 mL
   Urine:
                                                                  6,675 mL
                                                                  1,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,556 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all 4 present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : at bases, Rhonchorous: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.8 g/dL
   190 K/uL
   157 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   8 mg/dL
   112 mEq/L
   139 mEq/L
   26.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2124-3-1**]  01:30 AM
                             [**2124-3-1**]  03:00 AM
                             [**2124-3-1**]  01:52 PM
                             [**2124-3-2**]  03:54 AM
   WBC
   7.0
   5.2
   5.4
   Hct
   26.1
   25.7
   27.4
   26.8
   Plt
   [**Telephone/Fax (3) 4335**]
   Cr
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   95
   129
   157
   Other labs: PT / PTT / INR:13.9/33.4/1.2, CK / CKMB /
   Troponin-T:254/3/<0.01, Differential-Neuts:79.7 %, Lymph:17.2 %,
   Mono:2.7 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, LDH:139 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   65 y/o M with hx of HTN and hypothytroidism with N/V x 3 days, with
   fever/hypotension/shock/leukocytosis: all resolved. no source. ?
   gastroenteritis with aspiration pneumonitis with sepsis, now resolved.
   TTE neg
   Sepsis: resolved. all cxs neg so far.
   abx: Vanc/Zosyn x 72 hrs then stop
   stress dose steroids: stop and monitor vitals
   Anemia: microcytic. check p smear. No diarrhea. Hct stable. guiac neg.
   Add iron profile to admission labs.
   Card: ruled out, TTE stable.
   Hypothyroid: replace
   GI: PPI
   Rest per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-1**] 02:30 AM
   18 Gauge - [**2124-3-1**] 02:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 mins